US08357694B2
Step 5: (R)-6-(2-Fluorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride salt.
A solution of (R)-6-(2-fluorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine (5.5 g, 10.22 mmol) was dissolved in a mixed solvents of dichloromethane (30 mL) and ethyl acetate (20 mL). To this solution was added 2.5 M HCl in ethyl acetate (30 mL) slowly while stirring. After addition, the suspension was stirred at room temperature for 10 min, and then diethyl ether (300 mL) was added. Product was collected by filtration and dried at 60° C. for 24 hours to provide 6.2 g (˜93%) of final product as a yellow solid. The purity of this salt was found to be 100% at UV 254 nm by HPLC short method (2.5 min run) and 92% at UV254 by HPLC long method (20 min run). The salt was further purified as shown in the examples disclosed herein.

reactant | (R)-6-(2-fluorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | 10.22 mmol, 5.5 g | FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC(=CC=C2)CCN2CCN(CC2)CCOC | C33H36FN5O
reactant | HCl | 2.5 M | Cl | ClH
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (R)-6-(2-Fluorophenyl)-N-(3-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride salt | 6.2 g, ~93% | Cl.FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC(=CC=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H36FN5O.ClH/c1-40-20-19-39-17-15-38(16-18-39)14-13-24-7-6-8-26(21-24)36-33-35-23-25-22-30(28-10-4-5-12-31(28)34)27-9-2-3-11-29(27)32(25)37-33;/h2-12,21,23,30H,13-20,22H2,1H3,(H,35,36,37);1H/t30-;/m1./s1
